datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[C@H]1CCCC[C@@H]1[NH2:10].NC(=O)C=C(O)c1ccc[n+:21]([H:20])c1>>C[C@H]1CCCC[C@@H]1[NH2+:10][H:20].NC(=O)C=C(O)c1ccc[n:21]c1 10=20;20,21=21",
"CSc1cccc2c1ccc[n+:21]2[H:20].Clc1ccc([S-:10])cc1>>CSc1cccc2c1ccc[n:21]2.Clc1ccc([S:10][H:20])cc1 10=20;20,21=21",
"O=C1C=C(c2ccccc2)Oc2c1cccc2[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1C=C(c2ccccc2)Oc2c1cccc2[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1cccc[n+:21]1[H:20].O=S(=O)(Cc1ccccc1)c1ncc[n-:10]1>>CC(=O)c1cccc[n:21]1.O=S(=O)(Cc1ccccc1)c1ncc[n:10]1[H:20] 10=20;20,21=21",
"O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH+:21]1[H:20].c1cncc(CC[NH2:10])c1>>O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH:21]1.c1cncc(CC[NH2+:10][H:20])c1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O:21][H:20])CC(=O)O)cc1.N#CC(C#N)=N[N-:10]c1ccc(/N=N/c2ccccc2)cc1>>Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O-:21])CC(=O)O)cc1.N#CC(C#N)=N[N:10](c1ccc(/N=N/c2ccccc2)cc1)[H:20] 10=20;20,21=21",
"COc1ccc([O-:10])cc1Br.c1cc[n+:21]([H:20])c(-c2cc[nH+]cc2)c1>>COc1ccc([O:10][H:20])cc1Br.c1cc[n:21]c(-c2cc[nH+]cc2)c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCC(=O)c1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCC(=O)c1ccccc1)[H:20] 10=20;20,21=21",
"CN(C)c1cccc(/C(=N\[O-:10])C(F)(F)F)c1.Cn1c([O-])[nH+]c2c[n+:21]([H:20])c([O-])nc21>>CN(C)c1cccc(/C(=N\[O:10][H:20])C(F)(F)F)c1.Cn1c([O-])[nH+]c2c[n:21]c([O-])nc21 10=20;20,21=21",
"CC[N+:21](CC)(CCN=C(c1ccccc1C)c1ccccc1C)[H:20].c1cc2c(cc1[NH2:10])CCCC2>>CC[N:21](CC)CCN=C(c1ccccc1C)c1ccccc1C.c1cc2c(cc1[NH2+:10][H:20])CCCC2 10=20;20,21=21",
"C1CCC2C[NH:10]CCC2C1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CCC2C[NH+:10]([H:20])CCC2C1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCC(O)C[N+:21](CC)(CC(O)CC)[H:20].[O-]c1cncc[n:10]1>>CCC(O)C[N:21](CC)CC(O)CC.[O-]c1cncc[n+:10]1[H:20] 10=20;20,21=21",
"Cc1ccc(N)cc1C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(N)cc1C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1ccc(Oc2ccc([NH2:10])cc2)cc1.O=C(c1ccc(F)c([N+](=O)[O-])c1)[O:21][H:20]>>Nc1ccc(Oc2ccc([NH2+:10][H:20])cc2)cc1.O=C(c1ccc(F)c([N+](=O)[O-])c1)[O-:21] 10=20;20,21=21",
"BrCCCC[NH2+:21][H:20].CCCn1cc[n:10]c1C=O>>BrCCCC[NH2:21].CCCn1cc[n+:10]([H:20])c1C=O 10=20;20,21=21",
"Cc1nc(N)cc([O:21][H:20])[nH+]1.c1ccc2[nH][n:10]cc2c1>>Cc1nc(N)cc([O-:21])[nH+]1.c1ccc2[nH][n+:10]([H:20])cc2c1 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.ONc1ccc([O:21][H:20])cc1>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.ONc1ccc([O-:21])cc1 10=20;20,21=21",
"C1CN(CC[NH2:10])CCO1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C1CN(CC[NH2+:10][H:20])CCO1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"COc1ccc(/C=N/[O:21][H:20])cc1OC.Oc1ccc(Cl)cc1C[N:10]1CCCC1>>COc1ccc(/C=N/[O-:21])cc1OC.Oc1ccc(Cl)cc1C[N+:10]1([H:20])CCCC1 10=20;20,21=21",
"C[C@H]1C[C@@H]2CCC[C@@H]2[N+:21]1(C)[H:20].Cc1ccnc([S-])[n:10]1>>C[C@H]1C[C@@H]2CCC[C@@H]2[N:21]1C.Cc1ccnc([S-])[n+:10]1[H:20] 10=20;20,21=21",
"Cc1ccccc1C(=O)[O-:10].c1csc(-c2scc[n+:21]2[H:20])n1>>Cc1ccccc1C(=O)[O:10][H:20].c1csc(-c2scc[n:21]2)n1 10=20;20,21=21",
"CC[N:10](CC)CC(C)Nc1c2ccc(Cl)cc2nc2ccc(OC)cc12.Cc1cc(-c2cc(C)[n+:21]([H:20])[nH]2)[nH]n1>>CC[N+:10](CC)(CC(C)Nc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20].Cc1cc(-c2cc(C)[n:21][nH]2)[nH]n1 10=20;20,21=21",
"C1CCN(CC[N:10]2CCCCC2)CC1.COc1ccc2c(c1)CC(C)[NH+:21]2[H:20]>>C1CCN(CC[N+:10]2([H:20])CCCCC2)CC1.COc1ccc2c(c1)CC(C)[NH:21]2 10=20;20,21=21",
"CC[N:10](CC)CCC(C)=O.CN[C@H]1C(C)[C@@H]1[NH+:21](C)[H:20]>>CC[N+:10](CC)(CCC(C)=O)[H:20].CN[C@H]1C(C)[C@@H]1[NH:21]C 10=20;20,21=21",
"CC(C(O)c1ccccc1)[N+:21](C)(C)[H:20].CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH:10][C@@H]2C(=O)[O-]>>CC(C(O)c1ccccc1)[N:21](C)C.CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH+:10]([H:20])[C@@H]2C(=O)[O-] 10=20;20,21=21",
"CC(C)[N:10]1CCC(NN)CC1.c1ccc([O:21][H:20])c(C2=[NH+]CCN2)c1>>CC(C)[N+:10]1([H:20])CCC(NN)CC1.c1ccc([O-:21])c(C2=[NH+]CCN2)c1 10=20;20,21=21",
"CCC[N+:21](CCC)(CC(=O)NC1c2ccccc2-c2ccccc21)[H:20].COC(=O)C1CCC[N:10](C)C1>>CCC[N:21](CCC)CC(=O)NC1c2ccccc2-c2ccccc21.COC(=O)C1CCC[N+:10](C)([H:20])C1 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH+:21]1[H:20].CC1=C(CC(C)[NH:10]CC(O)c2ccc(F)cc2)CCC1(C)C>>CC1(C)CC(NCCO)CC(C)(C)[NH:21]1.CC1=C(CC(C)[NH+:10](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C 10=20;20,21=21",
"C#CC(C)(C)[NH+:21](c1ccccc1)[H:20].NC(=O)N/N=C/c1ncnc2nc[n-:10]c12>>C#CC(C)(C)[NH:21]c1ccccc1.NC(=O)N/N=C/c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"O=C(CSc1ccc(S)cc1)[O-:10].O=S(=O)(c1ccc(Br)cc1)[O:21][H:20]>>O=C(CSc1ccc(S)cc1)[O:10][H:20].O=S(=O)(c1ccc(Br)cc1)[O-:21] 10=20;20,21=21",
"Cc1ccc2c(c1)sc(c1ccc([N:10](C)C)cc1)[n+]2C.c1ccc2c(c1)cc1ccccc1[n+]2[O:21][H:20]>>Cc1ccc2c(c1)sc(c1ccc([N+:10](C)(C)[H:20])cc1)[n+]2C.c1ccc2c(c1)cc1ccccc1[n+]2[O-:21] 10=20;20,21=21",
